US07615562B2
Step B: 4-{4-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-butan-2-one
The title compound was prepared from (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-butan-2-one according to Method C (Example 178). Yield: 217 mg (71%).

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-butan-2-one | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCC(C)=O)C | C16H23BO3
product | 4-{4-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-butan-2-one | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)CCC(C)=O)(C)C)C | C23H32N4O
